US08957069B2
5-[4-(4-methoxyphenyl)piperazin-1-yl]-2,2,3,4,6,7-hexamethyl-2,3-dihydro-1-benzofuran-3-ol
A diethylether solution (5.60 mL, 6.38 mmol) containing 1.14 M methyl lithium was added dropwise to a solution of tetrahydrofuran (20 mL) containing 5-[4-(4-methoxyphenyl)piperazin-1-yl]-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one (2.00 g, 5.06 mmol) synthesized in Reference Example 42 under ice-cooling condition, and the mixture was stirred for 10 minutes. Water was added to the reaction solution, and extraction was performed using ethyl acetate. The organic layer was washed with water and saturated saline, and then dried using anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the obtained residue was crystallized using hexane to give 2.00 g of the title compound (yield: 96%).

reactant | diethylether | 6.38 mmol, 5.60 mL | C(C)OCC | C4H10O
reactant | methyl lithium | 1.14 M | C[Li]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | 5-[4-(4-methoxyphenyl)piperazin-1-yl]-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one | 5.06 mmol, 2.00 g | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C24H30N2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 5-[4-(4-methoxyphenyl)piperazin-1-yl]-2,2,3,4,6,7-hexamethyl-2,3-dihydro-1-benzofuran-3-ol | 2.00 g, yield: 96% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)(O)C)C1C)C)C | C25H34N2O3
